US03996374
The starting material can be prepared from 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and dimethylcarbonate in a manner analogous to that described in Example 1. After recrystallization from acetone, there is obtained 5-chloro-3-phenylisoindole-1-carboxylic acid methyl ester; melting point 208°-210° C. (decomposition).

reactant | 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
reactant | dimethylcarbonate | COC(OC)=O | C3H6O3
product | 5-chloro-3-phenylisoindole-1-carboxylic acid methyl ester | COC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C16H12ClNO2
